US05021415
A mixture of methyl-3-oxo-5,6-diphenyl-1,2,4-triazine-2(3H)-nonanoate (1.90g' 4.5mmol), 5N N (2.72mL, 13mmol) and methanol (30mL) was heated on a steam bath for 30 minutes. The volatiles were removed in vacuo and the residue diluted with water and dilute HC1 solution until pH=1 The mixture was extracted with CH2C12, the combined extracts dried over sodium sulfate and concentrated to give an oil. Chromatography on a column of silica gel using diethyl ether as eluent gave 3-oxo-5,6-diphenyl-1,2,4-triazine-2(lH)-nonanoic acid (1.50g, 81%) which crystallized on standing and had mp 97-100° C.

reactant | methyl-3-oxo-5,6-diphenyl-1,2,4-triazine-2(3H)-nonanoate | COC(CCCCCCCCN1N=C(C(=NC1=O)C1=CC=CC=C1)C1=CC=CC=C1)=O | C25H29N3O3
reactant | methanol | 30mL | CO | CH4O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3-oxo-5,6-diphenyl-1,2,4-triazine-2(lH)-nonanoic acid | 1.50g, 81% | O=C1N(NC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1)CCCCCCCCC(=O)O | C24H29N3O3
